US06642229B2
A cooled (−10° C.) suspension of 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenol (4.28 g, 19 mmol) in dichloromethane (75 ml) was treated with pyridine (2.46 ml, 30 mmol) then with trifluoromethanesulfonic anhydride (4.05 ml, 25 mmol) added dropwise over 15 min. The resulting dark solution was stirred at −10° C. for 30 min then warmed to ambient temperature. The reaction was diluted with dichloromethane (200 ml) then extracted with 0.1N hydrochloric acid (2×200 ml), water, brine, dried over anhydrous sodium sulfate, filtered and evaporated to dryness to afford crude trifluoromethanesulfonic acid 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenyl ester as a dark oil: m/z (ES+) 316 (M++H). This oil was dissolved in N,N-dimethylacetamide (50 ml) and degassed with nitrogen for 30 min before adding potassium phosphate (8.1 g, 38 mmol), tetrakis(triphenylphosphine)palladium(0) (660 mg, 0.6 mmol) and 2-methoxyphenylboronic acid (4.62 g, 30.4 mmol). This reaction mixture was then heated at 80° C. for 12 h, allowed to cool to ambient temperature then partitioned between ethyl acetate and water. The organics were washed with 0.1N sodium hydroxide, water, brine, dried over anhydrous magnesium sulfate, filtered then pre-adsorbed onto silica. Purification by chromatography on silica gel eluting with dichloromethane:conc. ammonia (99.5:0.5) on a gradient of MeOH (1-4%) afforded 3-(2′-methoxybiphenyl-3-yl)-7-methylimidazo[1,2-a]pyrimidine as a pale yellow solid (4.4 g, 73%): δH (400 MHz, DMSO) 2.58 (3H, s), 3.82 (3H, s), 7.03-7.08 (2H, m), 7.16 (1H, d, J 8), 7.38-7.45 (2H, m), 7.53-7.65 (3H, m), 7.74 (1H, s), 7.89 (1H, s), 8.91 (1H, d, J 8); m/z (ES+) 316 (M++H).

reactant | 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenol | 19 mmol, 4.28 g | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)O | C13H11N3O
reactant | pyridine | 30 mmol, 2.46 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 25 mmol, 4.05 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenyl ester | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C14H10F3N3O3S
